US05571912
2-chloronicotinic acid chloride was prepared by refluxing 90g (0.571 mole) of 2-chloronicotinic acid in 315ml of thionylchloride for 2 hours. The excess thionylchloride was distilled off. The residue was diluted with 200ml of 1,4-dioxane and used as is.

reactant | 2-chloronicotinic acid | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionylchloride | 315ml | S(=O)(Cl)Cl | Cl2OS
product | 2-chloronicotinic acid chloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
